US04218396
N,N"-[4-Chloro-1,3-phenylene]bis[N',N'-bis-(1-methylethyl)thiourea]
A mixture of 11.1 g. of 4-chloro-1,3-diisothiocyanatobenzene and 10.2 g. of diisopropylamine is refluxed in 250 ml. of acetonitrile for 4 hours. The reaction mixture is cooled and the acetonitrile is removed in vacuo. The residue is crystallized twice from ether to yield 5.0 g. of the title compound, melting point 122°-123° C.

reactant | 4-chloro-1,3-diisothiocyanatobenzene | ClC1=C(C=C(C=C1)N=C=S)N=C=S | C8H3ClN2S2
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | N,N"-[4-Chloro-1,3-phenylene]bis[N',N'-bis-(1-methylethyl)thiourea] | ClC1=C(C=C(C=C1)NC(=S)N(C(C)C)C(C)C)NC(=S)N(C(C)C)C(C)C | C20H33ClN4S2
